US09289503B2
The HCl salt of (E)-methyl 4-(2-aminoethylamino)-4-oxobut-2-enoate (8.1 mmol) was takes up in 40 mL of CH3CN along with (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid (DHA, 2.60 g, 8.1 mmol), HATU (3.4 g, 12.1 mmol) and DIEA (4.2 mL). The reselling reaction mixture was stirred at room temperature for 2 h and diluted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, brine, dried (Na2SO4) and concentrated under reduced pressure. Purification by chromatography (95% CH2Cl2, 5% MeOH) afforded 1.4 g of (E)-methyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate. MS (EI) calcd for C29H42N2O4: 482.31; found 483 (M+1).

reactant | HCl | Cl | ClH
reactant | (E)-methyl 4-(2-aminoethylamino)-4-oxobut-2-enoate | 8.1 mmol | NCCNC(/C=C/C(=O)OC)=O | C7H12N2O3
reactant | (4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenoic acid | 8.1 mmol, 2.60 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C22H32O2
reactant | HATU | 12.1 mmol, 3.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 4.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 40 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-methyl 4-(2-(4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamidoethylamino)-4-oxobut-2-enoate | 1.4 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCNC(/C=C/C(=O)OC)=O | C29H42N2O4
